US04670592
A mixture of thiophenol (3.63 g.), 2N aqueous sodium hydroxide (25 ml.) and 2-methyleneglutaronitrile (3.2 g.) was stirred at room temperature for 18 hours. The mixture was extracted with diethyl ether, and the ether extract washed with water and then dried and evaporated to dryness to give 2-(phenylthiomethyl)glutaronitrile which was used without further purification.

reactant | thiophenol | 3.63 g | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydroxide | 2N, 25 ml | [OH-].[Na+]
reactant | 2-methyleneglutaronitrile | 3.2 g | C=C(C#N)CCC#N | C6H6N2
product | 2-(phenylthiomethyl)glutaronitrile | C1(=CC=CC=C1)SCC(C#N)CCC#N | C12H12N2S
